US09422281B2
A solution of (S)-2-(3-nitropyridin-2-ylamino)propane-1-ol (4.88 g, 24.75 mmol) in acetonitrile (50 mL) was cooled to 0° C. and treated with N-bromosuccinimide (4.40 g, 24.75 mmol) in one portion. The ice bath was left in place and allowed to slowly expire over 15 h. The solution was then concentrated under reduced pressure in order to remove most (>90%) of the acetonitrile. The concentrated solution was dissolved in ethyl acetate and washed with half-saturated aqueous sodium bicarbonate solution (2×75 mL) and 5% aqueous sodium chloride solution (1×75 mL). The ethyl acetate solution was then concentrated under reduced pressure to afford (S)-2-(5-bromo-3-nitropyridin-2-ylamino)propane-1-ol (7.11 g) as a dark yellow solution which was used in the next step without purification. MS (ESI, pos. ion) m/z 276. 278 [M+1]+.

reactant | (S)-2-(3-nitropyridin-2-ylamino)propane-1-ol | 24.75 mmol, 4.88 g | [N+](=O)([O-])C=1C(=NC=CC1)N[C@H](CO)C | C8H11N3O3
reactant | N-bromosuccinimide | 24.75 mmol, 4.40 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (S)-2-(5-bromo-3-nitropyridin-2-ylamino)propane-1-ol | 7.11 g | BrC=1C=C(C(=NC1)N[C@H](CO)C)[N+](=O)[O-] | C8H10BrN3O3
